US07842713B2
Preparation of Intermediate 8a: 4-Hydroxy-benzofuran-6-carboxylic acid ethyl ester
t-Butoxide (1.7 g, 15 mmol) was added to a solution of 2-furaldehyde (2.5 mL, 30.2 mmol) and diethyl succinate (3.2 mL, 19 mmol) in t-butanol (20 mL). The mixture was refluxed for 2 hr, cooled to room temperature and acidified with aqueous HCl (20% v/v) to pH˜2. The mixture was diluted with 5% HCl (100 mL) and extracted with EtOAc (2×100 mL). The organic layers were then extracted with 10% aqueous solution of Na2CO3 (2×100 mL). The aqueous solution was washed with EtOAc and then acidified with 20% HCl to pH˜2. The aqueous layer was finally extracted with EtOAc (3×100 mL), dried over MgSO4 and concentrated to give a brown oil. The crude product was dissolved in Ac2O (10 mL) and added NaOAc (1.6 g, 19 mmol). The mixture was heated to reflux for 5 hr, cooled to room temperature and concentrated. The residue was taken into 1/2 saturated Na2CO3, extracted with EtOAc (2×150 mL), dried over MgSO4 and concentrated to give a brown color solid. The solid was then dissolved in EtOH (10 mL). To the solution was added K2CO3 (2.5 g, 18 mmol). The resulting reaction mixture was heated to reflux overnight and the solvent was removed in vacuo. The brown residue was then treated with H2O (50 mL) and acidified with 6N HCl to pH 6. The solution was then extracted with EtOAc (2×50 mL), and combined organic layers were dried over MgSO4 and concentrated. The crude material was purified by flash column chromatography to give a yellow color solid (532 mg, 9% yield). 1H NMR (400 MHz, CDCl3) δ 7.83 (s, 1 H) 7.68 (d, J=2.02 Hz, 1 H) 7.51 (s, 1 H) 6.92-7.00 (m, 1 H) 4.42 (q, J=7.24 Hz, 2 H) 1.42 (t, J=7.20 Hz, 3 H).

reactant | t-Butoxide | 15 mmol, 1.7 g | CC(C)([O-])C
reactant | 2-furaldehyde | 30.2 mmol, 2.5 mL | O1C(=CC=C1)C=O | C5H4O2
reactant | diethyl succinate | 19 mmol, 3.2 mL | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | NaOAc | 19 mmol, 1.6 g | CC(=O)[O-].[Na+]
reactant | K2CO3 | 18 mmol, 2.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | t-butanol | 20 mL | C(C)(C)(C)O | C4H10O
solvent | HCl | 100 mL | Cl | ClH
solvent | Ac2O | 10 mL | CC(=O)OC(=O)C | C4H6O3
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-Hydroxy-benzofuran-6-carboxylic acid ethyl ester | 532 mg, 9% yield | C(C)OC(=O)C1=CC2=C(C=CO2)C(=C1)O | C11H10O4
